US04192871
20,20-Ethylenedioxy-16α-methyl-5α-pregnane-3α,11β-diol
A solution of sodium borohydride (4.12 g) in water (41 ml) was added to a refluxing solution of 20,20-ethylenedioxy-3α-hydroxy-16α-methyl-5α-pregnan-11-one (7.55 g) in ethanol (375 ml) containing pyridine (7 drops). The mixture was refluxed for 1 hr. then cooled and glacial acetic acid added until no further effervescence occurred. The mixture was partitioned between 3%-aqueous sodium hydrogen carbonate and ethyl acetate. The aqueous portion was extracted with additional ethyl acetate. The combined organic extracts were washed with saturated brine solution, dried and evaporated to a white foam which crystallised from acetone-water to afford the title compound as white prisms (3.29 g),

reactant | sodium borohydride | 4.12 g | [BH4-].[Na+]
reactant | 20,20-ethylenedioxy-3α-hydroxy-16α-methyl-5α-pregnan-11-one | 7.55 g | C1OC(C)([C@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H]5C[C@@H](CC[C@]5(C)[C@H]4C(C[C@]23C)=O)O)C)OC1 | C24H38O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 41 ml | O | H2O
solvent | ethanol | 375 ml | C(C)O | C2H6O
catalyst | pyridine | 7 drops | N1=CC=CC=C1 | C5H5N
product | 20,20-Ethylenedioxy-16α-methyl-5α-pregnane-3α,11β-diol | 3.29 g | C1OC(C)([C@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H]5C[C@@H](CC[C@]5(C)[C@H]4[C@H](C[C@]23C)O)O)C)OC1 | C24H40O4
